US07741323B2
(Step 3) Preparation of 3-phenyl-6-(3-phenylpropyloxy)-1-oxo-1H-indene-2-carboxylate cyclohexylamide
3-Phenyl-6-(3-phenylpropyloxy)-1-oxo-1H-indene-2-carboxylate (200 mg, 0.52 mmol) was dissolved in dichloromethane (10 ml). Triethylamine (240 μl, 1.72 mmol) and cyclohexylamine (59 μl, 0.52 mmol) were added thereto at 10° C. Then, after adding bis(2-oxo-3-oxazolidinyl)phosphinic chloride (137 mg, 0.52 mmol), the reaction mixture was stirred for about 20 min at room temperature followed by additional 1 hour at 10° C. After the water was added thereto to complete the reaction, pH was adjusted to 1˜1.5 with 4N hydrochloric acid. The mixture was washed with brine, and extracted with dichloromethane. The extract was dried over anhydrous sulfonate sulfate, concentrated, and the resulting residue was purified by column chromatography (ethyl acetate:hexane=1:9˜2:8) to obtain the title compound (yield 59.8%) as a red solid.

reactant | 3-Phenyl-6-(3-phenylpropyloxy)-1-oxo-1H-indene-2-carboxylate | 0.52 mmol, 200 mg | C1(=CC=CC=C1)C1=C(C(C2=CC(=CC=C12)OCCCC1=CC=CC=C1)=O)C(=O)[O-]
reactant | Triethylamine | 1.72 mmol, 240 μl | C(C)N(CC)CC | C6H15N
reactant | cyclohexylamine | 0.52 mmol, 59 μl | C1(CCCCC1)N | C6H13N
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 0.52 mmol, 137 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-phenyl-6-(3-phenylpropyloxy)-1-oxo-1H-indene-2-carboxylate cyclohexylamide | yield 59.8% | C1(CCCCC1)[NH-].C1(=CC=CC=C1)C1=C(C(C2=CC(=CC=C12)OCCCC1=CC=CC=C1)=O)C(=O)[O-] | InChI=1S/C25H20O4.C6H12N/c26-24-21-16-19(29-15-7-10-17-8-3-1-4-9-17)13-14-20(21)22(23(24)25(27)28)18-11-5-2-6-12-18;7-6-4-2-1-3-5-6/h1-6,8-9,11-14,16H,7,10,15H2,(H,27,28);6-7H,1-5H2/q;-1/p-1
